US07301043B2
To a solution of 0.5 g (5 mmol) of succinic anhydride in 60 ml of nitrobenzene, 1.32 g (5 mmol) of anhydrous AlCl3 and 1 g (5 mmol) of pyrene were added at 0° C. After a reaction time of 18 hours at room temperature, the solution was poured onto 30 ml of iced hydrochloric acid (25%), forming a precipitate. Filtration and recrystallization from EtOH yielded 1.233 g (82%) of 4-oxo-4-(pyrene-1-yl)-butyric acid.

reactant | succinic anhydride | 5 mmol, 0.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | AlCl3 | 5 mmol, 1.32 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | pyrene | 5 mmol, 1 g | C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H10
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | nitrobenzene | 60 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-oxo-4-(pyrene-1-yl)-butyric acid | 1.233 g, 82% | O=C(CCC(=O)O)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C20H14O3
